US06271225B1
To a solution of N-(3-chloro-6-hydroxyphenyl)-2-bromo-3-thiophenecarboxamide (4.1 g) in dimethyl sulfoxide (33 ml) was added potassium carbonate (3.3 g), and the mixture was stined at 140-150° C. for 75 minutes. The reaction system was cooled to room temperature and the reaction mixture was poured into ice water. The precipitated crystals were collected by filtration. The filtrate was extracted twice with chloroform, the organic layer was dried over sodium sulfate and the solvent was evaporated under reduced pressure. The residue and the above-mentioned crystals were combined and purified by silica gel column chromatography (chloroform:methanol=20:1, hexane:ethyl acetate=1:1-ethyl acetate:methanol=20:1). The obtained solid was collected by filtration from hexane-ethyl acetate to give 7-chloro-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (660 mg).

reactant | N-(3-chloro-6-hydroxyphenyl)-2-bromo-3-thiophenecarboxamide | 4.1 g | ClC=1C=C(C(=CC1)O)NC(=O)C1=C(SC=C1)Br | C11H7BrClNO2S
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 33 ml | CS(=O)C | C2H6OS
product | 7-chloro-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 660 mg | ClC=1C=CC2=C(NC(C3=C(O2)SC(=C3)C)=O)C1 | C12H8ClNO2S
